US07863248B2
To a 96-well plate, 40 μl of mushroom-derived tyrosinase (125 unit/ml; dissolved in a 67 mmol/l phosphate buffer solution; Sigma), 120 μl of 3,4-dihydroxyphenylalanine that serves as a substrate (L-dopa; 5 mmol/l; dissolved in a 67 mmol/l phosphate buffer solution; Sigma), and 40 μl of an inhibitor solution were added. The plate was allowed to stand for 37° C. for 30 minutes. Then, the amount of dopachrome produced was determined by absorbance at 490 nm. Tyrosinase inhibitory activity was expressed as an inhibitory rate obtained by the following equation: Inhibitory Rate (%)=[(A−B)−(C−D)]/(A−B)×100

reactant | 3,4-dihydroxyphenylalanine | 120 μl | OC=1C=C(C[C@H](N)C(=O)O)C=CC1O | C9H11NO4
reactant | L-dopa | O=C(O)[C@@H](N)CC1=CC=C(O)C(O)=C1 | C9H11NO4
solvent | phosphate | 67 mmol/l | P(=O)([O-])([O-])[O-]
solvent | phosphate | 67 mmol/l | P(=O)([O-])([O-])[O-]
product | dopachrome | C1C(NC2=CC(=O)C(=O)C=C21)C(=O)O | C9H7NO4
